US05352792
A solution of 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-(diphenylmethoxycarbonylmethoxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthio-methylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (1.04 g: 0.749 mMol.) in a mixture of 98% formic acid (16 ml) and water (0.8 ml) is stirred at room temperature for 3 hours. The reaction mixture is concentrated. The residue is washed with ether, filtered, end dried. To a solution of this residue in a mixture of anisole (2 ml) and nitro- methane (8 ml) at -40° C. is added a solution of aluminum chloride (0.50 g: 3.76 mMol.) in anisole (2 ml), and the mixture is stirred at -30° to -40° C. for 1 hour. The reaction mixture is diluted with 1N-hydrochloric acid (3.8 ml) and water, washed with ethyl acetate, and concentrated under reduced pressure to remove organic solvents. The remaining aqueous solution is subjected to chromatography over styrene-divinyl-benzene copolymer (methanol: water=4:1). The residue is washed with ethyl acetate and resulting powder is dissolved in dilute aqueous sodium hydrogen carbonate, and purified by chromatography over analytical styrene-divinylbenzene (water). The eluate is lyophilized and pulverized with ethyl acetate to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(sodiooxycarbonylmethoxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid sodium salt (121 mg) as pale yellow white powder. Yield: 26%.

reactant | 7β-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-(diphenylmethoxycarbonylmethoxyimino)acetamido]-3-(trityl-1,2,3-triazol-4-ylthio-methylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.749 mMol, 1.04 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OCC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C81H64N8O7S4
reactant | aluminum chloride | 3.76 mMol, 0.50 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | formic acid | 16 ml | C(=O)O | CH2O2
solvent | water | 0.8 ml | O | H2O
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 3.8 ml | Cl | ClH
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(sodiooxycarbonylmethoxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid sodium salt | 121 mg, Yield: 26% | [Na+].NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)[O-])C1=O)=N/OCC(=O)O[Na] | InChI=1S/C17H16N8O7S4.2Na/c18-17-20-6(3-34-17)10(23-32-2-9(26)27)13(28)21-11-14(29)25-12(16(30)31)7(4-33-15(11)25)35-5-36-8-1-19-24-22-8;;/h1,3,11,15H,2,4-5H2,(H2,18,20)(H,21,28)(H,26,27)(H,30,31)(H,19,22,24);;/q;2*+1/p-2/b23-10-;;/t11-,15-;;/m1../s1
